US09216968B2
To a solution of ethyl 5-bromo-2-chlorobenzoate (1.9 g) in DMF (12 mL), toluene (0.3 mL), cyclopropylacetylene (714 mg), copper iodide (275 mg), dichloro bis(triphenylphosphine)palladium (1.01 g) and triethylamine (20.1 mL) were added, and the mixture was degassed, stirred at 100° C. under argon atmosphere for 8 hours, and then the reaction mixture was cooled to room temperature and diluted with ethyl acetate. The insoluble material was filtered off on celite. The mother liquor was washed with brine, dried over magnesium sulfate and concentrated. By purification on column chromatography, ethyl 2-chloro-5-(cyclopropylethynyl)benzoate (1.86 g) was obtained as brown oil.

reactant | ethyl 5-bromo-2-chlorobenzoate | 1.9 g | BrC=1C=CC(=C(C(=O)OCC)C1)Cl | C9H8BrClO2
reactant | cyclopropylacetylene | 714 mg | C1(CC1)C#C | C5H6
reactant | triethylamine | 20.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | toluene | 0.3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 275 mg | [Cu](I)I
catalyst | dichloro bis(triphenylphosphine)palladium | 1.01 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 2-chloro-5-(cyclopropylethynyl)benzoate | 1.86 g | ClC1=C(C(=O)OCC)C=C(C=C1)C#CC1CC1 | C14H13ClO2
